US07875602B2
B. (±)-α-(isopropylideneaminooxy)propionic acid (2)
The ethyl α-(isopropylideneaminooxy)propionate was added to 5% NaOH solution (1.2 L) at 70° C. After 20 min, the solution was cooled to rt and acidified to pH 2.0 with 5N HCl solution. Then to the solution was added (NH4)2SO4 (500 g) and the mixture was extracted with 1:1 benzene:Et2O (2×300 mL). The combined organic extracts were dried over Na2SO4 and concentrated to approximately 200 mL. Petroleum ether (500 mL) was added and the solution was cooled to −20° C. overnight. The recrystallized product was recovered by filtration. 80 g of product 2 was recovered as a white solid (37%). 1H NMR (CDCl3): δ 4.64 (q, 1H, J=6.9 Hz, CH), 1.93 (s, 3H, CH3), 1.90 (s, 3H, CH3), 1.50 (d, 3H, J=6.9 Hz, CH3); M.p. 59-61° C.

reactant | ethyl α-(isopropylideneaminooxy)propionate | C(C)(C)=NOC(C(=O)OCC)C | C8H15NO3
reactant | NaOH | 1.2 L | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
product | (±)-α-(isopropylideneaminooxy)propionic acid | C(C)(C)=NOC(C(=O)O)C | C6H11NO3
